US06534649B1
6,6,13,13,20,20,27,27-Octamethyl-1,4,8,11, 15,18,22 ,25-octakis[[[3-(triethoxysilyl)propyl]-amino]carbonyl)-1,4,8,11,15,18,22,25-octaazacyclooctacosane
0.69 g (1.35 mmol) of 6,6,13,13,20,20,27,27-octamethyl-1,4,8,11,15,18,22,25-octaazacyclooctacosane is dissolved in 20 cm3 of anhydrous tetrahydrofuran (THF) in a 200 cm3 Schlenk tube. 3.2 g (12.9 mmol) of (3-isocyanatopropyl) triethoxysilane are rapidly added. The reaction mixture is stirred at room temperature for 12 hours. After evaporating the solvent, the solid obtained is washed twice with 50 cm3 of anhydrous pentahe. 1.97 g of the expected compound are obtained in the form of a white powder.

reactant | 6,6,13,13,20,20,27,27-octamethyl-1,4,8,11,15,18,22,25-octaazacyclooctacosane | 1.35 mmol, 0.69 g | CC1(CNCCNCC(CNCCNCC(CNCCNCC(CNCCNC1)(C)C)(C)C)(C)C)C | C28H64N8
reactant | (3-isocyanatopropyl) triethoxysilane | 12.9 mmol, 3.2 g | N(=C=O)CCC[Si](OCC)(OCC)OCC | C10H21NO4Si
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | 6,6,13,13,20,20,27,27-Octamethyl-1,4,8,11, 15,18,22 ,25-octakis[[[3-(triethoxysilyl)propyl]-amino]carbonyl)-1,4,8,11,15,18,22,25-octaazacyclooctacosane | 1.97 g | CC1(CN(CCN(CC(CN(CCN(CC(CN(CCN(CC(CN(CCN(C1)C(=O)NCCC[Si](OCC)(OCC)OCC)C(=O)NCCC[Si](OCC)(OCC)OCC)(C)C)C(=O)NCCC[Si](OCC)(OCC)OCC)C(=O)NCCC[Si](OCC)(OCC)OCC)(C)C)C(=O)NCCC[Si](OCC)(OCC)OCC)C(=O)NCCC[Si](OCC)(OCC)OCC)(C)C)C(=O)NCCC[Si](OCC)(OCC)OCC)C(=O)NCCC[Si](OCC)(OCC)OCC)C | C108H232N16O32Si8
